2125-12-23 06:34:00 Physician Resident Progress Note
Chief Complaint:  respiratory distress
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2125-12-22**] 08:08 AM
 EKG - At [**2125-12-22**] 09:00 AM
 NON-INVASIVE VENTILATION - START [**2125-12-22**] 02:00 PM
 NON-INVASIVE VENTILATION - STOP [**2125-12-22**] 04:00 PM
 NON-INVASIVE VENTILATION - START [**2125-12-22**] 11:30 PM
 NON-INVASIVE VENTILATION - STOP [**2125-12-23**] 04:30 AM
 EKG - At [**2125-12-23**] 06:00 AM
   Yesterday, after discussion with the family and patient, decision was
   made to intubate if situation worsens.  The patient requires pressor
   support with phenylephrine.  Overnight, she went back into A fib with
   RVR up to the 140
s.  She was continued on the amiodarone drip.  This
   AM, an ABG was done which was stable showing hypercarbia.  She is
   continued on intermittent BiPap vs. mask ventilation.  She continues to
   be NPO given tenuous respiratory status.
   Allergies:
   Codeine Unknown;
   Oxycodone/Acetaminophen (Oral) (Oxycodone Hcl/Acetaminophen
   Unknown;
   Morphine Sulfate Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-12-22**] 09:00 PM
   Piperacillin - [**2125-12-23**] 12:18 AM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Amiodarone - 0.5 mg/min to stop today
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-12-23**] 12:18 AM
   Other medications:
   Nystatin cream, Insulin SS, pantoprazole 40 QD, ipratropium nebs,
   albuterol nebs, metoprolol 50mg TID (held for BP), bactrim PPx, calcium
   and Vit D
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-12-23**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 111 (76 - 136) bpm
   BP: 100/50(59) {63/15(43) - 126/97(102)} mmHg
   RR: 33 (21 - 37) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 94.1 kg (admission): 90.5 kg
   Height: 66 Inch
             Total In:
                                                                  6,119 mL
                                                                    458 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                  1,991 mL
                                                                    458 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                    135 mL
   Urine:
                                                                    425 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,694 mL
                                                                    323 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 378 (300 - 391) mL
   PS : 10 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.30/74/145/36/7
   Ve: 9.6 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: Well nourished, moon facies, buffalo hump
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: cannot assess JVP d/t habitus
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irreg. tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffusely, greatest at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   380 K/uL
   8.8 g/dL
   379
   1.8 mg/dL
   33 mEq/L
   3.9 mEq/L
   23 mg/dL
   84 mEq/L
   125 mEq/L
   25.3 %
   16.9 K/uL
        [image002.jpg]
                            [**2125-12-22**]  02:50 AM
                            [**2125-12-22**]  03:20 AM
                            [**2125-12-22**]  12:24 PM
                            [**2125-12-22**]  03:48 PM
                            [**2125-12-23**]  04:50 AM
   WBC
   18.4
   18.4
   16.9
   Hct
   26.9
   27.0
   25.3
   Plt
   393
   429
   380
   Cr
   1.4
   1.6
   TCO2
   39
   38
   Glucose
   132
   110
   Other labs: PT / PTT / INR:14.1/29.3/1.2, ALT / AST:[**11-10**], Alk Phos / T
   Bili:96/0.4, Differential-Neuts:85.4 %, Lymph:11.4 %, Mono:2.2 %,
   Eos:0.8 %, Lactic Acid:0.8 mmol/L, LDH:183 IU/L, Ca++:9.4 mg/dL,
   Mg++:1.6 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   73 yo female with PMH significant for ILD on home O2, diastolic CHF,
   cor pulmonale, s/p liver transplant on immunosuppression,
   post-transplant myeloproliferative disorder s/p CHOP and rituximab
   transferred to ICU for respiratory distress.
   .
   # respiratory distress: hypercarbic and hypoxic respiratory failure.
   Most likely worsening natural course of her ILD with worsening
   pulmonary edema secondary to a fib with RVR.  Patient tenuous at
   baseline. Treating for VAP in addition to underlying lung disease, on
   vanco/zosyn day #[**7-4**]
   - NIPPV, alternate CPAP with face mask
   - serial ABGs. Seems to be stable, If worsening respiratory acidosis,
   will intubate
   - treat SVT as below
   - continue nebulizer treatments
   - No indication for steroids. Has not been responsive to steroids in
   the past
   .
   # SVT: appears to be AF vs MAT on tele and ECG.  The patient was loaded
   with amiodarone drip, started on amiodarone 200mg QD today.  Had
   similar episode on last MICU admission which did not tolerate beta
   blockers and required amio gtt. The patient does not tolerate
   betablockers given hypotensive, thus will attempt to rate control with
   amiodarone only.
   - will continue to monitor on telemetry
   - can attempt bolus IV lopressor if BP will tolerate
   - cont po beta blocker as BP will tolerate
   .
   # hypotension: likely due to RVR, and diastolic heart failure. In the
   setting of low grade fever, must also consider sepsis especially given
   immunosupression . Currently on broad spectrum abx of vanc/zosyn
   - will culture if spikes, follow blood cultures
   - treat SVT as above
   - Will give 1L of NS today, will repeat as tolerated
   - Will continue phenylephrine drip as needed, attempt to wean
   .
   # fever: new low grade temp this am. See hypotension above.  On broad
   spectrum Abs.  Follow culture
   .
   # s/p fall: no evidence of fracture. Pain controlled currently.
   - cont lidocaine patch, tylenol
   - avoid narcotics given tenuous respiratory status
   - PT
   .
   # DM: Even though patient is NPO BG have been very elevated.  Will
   continue to monitor QID and adjust sliding scale accordingly.  Will use
   half dose of outpatient insulin while NPO
   .
   # ILD: unclear etiology. Followed by Pulm. Refractory to steroids.
   - continue supplemental O2
   - no steroids for now
   - alb/atrovent nebs
   .
   # PTLD: no known active issues currently.
   - check LFTs as above
   - continue Tacrolimus at regular dose for now
   .
   # Hypothyroidism: TSH normal this admission. Continue Levothyroxine
   .
   # Access: PICC, PIV
   .
   # FEN: NPO for now given tenuous respiratory status
   .
   # Prophylaxis: Heparin SC 5000 tid, PPI
   - Bactrim M/W/F
   .
   # Code status: Intubation okay. CPR not indicated.
   .
   # Contact: [**Name (NI) 3326**] [**Name (NI) 5141**] [**Telephone/Fax (1) 7069**]  , daughter [**Name (NI) 518**] [**Telephone/Fax (1) 7179**]
   .
   # Dispo: ICU
 DYSPHAGIA
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-12-22**] 01:50 AM
   Prophylaxis:
   DVT:  Heparin SC TID
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate) OK to intubate
   Disposition:

2125-12-24 07:01:00 Physician Resident Progress Note
Chief Complaint:  respiratory distress
   24 Hour Events:
   - Received 1L NS following rounds
   - HR increased from 110's to 140s over the course of the day
   - Spent time on and off CPAP
   - Pt remained on phenylephrine
   - Patient and subsequent separate Family Meeting with Dr. [**Last Name (STitle) **]
   (Patients outpatient pulmonologist).
   The patient reports that she feels the same as yesterday.  She has no
   complaints other than her shortness of breath currently.
   Allergies:
   Codeine
   Unknown;
   Oxycodone/Acetaminophen (Oral) (Oxycodone Hcl/Acetaminophen
   Unknown;
   Morphine Sulfate
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2125-12-22**] 03:00 AM
   Vancomycin - [**2125-12-22**] 09:00 PM
   Piperacillin - [**2125-12-24**] 12:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-12-23**] 11:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-12-24**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 141 (80 - 141) bpm
   BP: 92/69(74) {81/43(56) - 109/75(78)} mmHg
   RR: 37 (19 - 39) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 94.1 kg (admission): 90.5 kg
   Height: 66 Inch
             Total In:
                                                                  2,670 mL
                                                                    229 mL
   PO:
             TF:
   IVF:
                                                                  2,670 mL
                                                                    229 mL
   Blood products:
   Total out:
                                                                    460 mL
                                                                    149 mL
   Urine:
                                                                    460 mL
                                                                    149 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,210 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 306 (249 - 473) mL
   PS : 12 cmH2O
   RR (Spontaneous): 42
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.25/74/141/31/2
   Ve: 11.3 L/min
   PaO2 / FiO2: 282
   Physical Examination
   General Appearance: Well nourished, moon facies, buffalo hump
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: cannot assess JVP d/t habitus
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irreg. tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffusely, greatest at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   380 K/uL
   8.8 g/dL
   115 mg/dL
   2.2 mg/dL
   31 mEq/L
   3.6 mEq/L
   25 mg/dL
   93 mEq/L
   132 mEq/L
   25.3 %
   16.9 K/uL
        [image002.jpg]
                            [**2125-12-22**]  02:50 AM
                            [**2125-12-22**]  03:20 AM
                            [**2125-12-22**]  12:24 PM
                            [**2125-12-22**]  03:48 PM
                            [**2125-12-23**]  04:50 AM
                            [**2125-12-23**]  07:21 AM
                            [**2125-12-24**]  12:34 AM
   WBC
   18.4
   18.4
   16.9
   Hct
   26.9
   27.0
   25.3
   Plt
   393
   429
   380
   Cr
   1.4
   1.6
   1.8
   2.2
   TCO2
   39
   38
   34
   Glucose
   132
   110
   379
   115
   Other labs: PT / PTT / INR:14.1/29.3/1.2, ALT / AST:[**11-10**], Alk Phos / T
   Bili:96/0.4, Differential-Neuts:85.4 %, Lymph:11.4 %, Mono:2.2 %,
   Eos:0.8 %, Lactic Acid:0.9 mmol/L, LDH:183 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.5 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   73 yo female with PMH significant for ILD on home O2, diastolic CHF,
   cor pulmonale, s/p liver transplant on immunosuppression,
   post-transplant myeloproliferative disorder s/p CHOP and rituximab
   transferred to ICU for respiratory distress.
   .
   # respiratory distress: hypercarbic and hypoxic respiratory failure.
   Most likely worsening natural course of her ILD with worsening
   pulmonary edema secondary to a fib with RVR, improved with rate
   control.  Patient tenuous at baseline. Treating for VAP in addition to
   underlying lung disease, on vanco/zosyn day #[**8-5**].  Will renally dose
   zosyn at 2.25mg starting today.
   - NIPPV, alternate CPAP with face [**Last Name (LF) **], [**First Name3 (LF) **] need to increase time on
   CPAP
   - will monitor respiratory status closely, if any change will consider
   intubation, overall plan to be discussed with patient and family today
   with her primary pulmonologist Dr. [**Last Name (STitle) **]
   - treat SVT as below
   - continue nebulizer treatments
   - No indication for steroids. Has not been responsive to steroids in
   the past
   .
   # SVT: appears to be AF vs MAT on tele and ECG.  The patient was loaded
   with amiodarone drip, started on amiodarone 200mg QD yesterday.  Will
   continue to rate control with lopressor as tolerated by BP.
   Spontaneously converts into NSR
   - will continue to monitor on telemetry
   .
   # hypotension: resolved, likely was due to RVR, and diastolic heart
   failure
   -          responded to rate control and IV fluids, will repeat today
   as needed.
   -          Will restart pressors as needed
   .
   #. ARF: likely prerenal secondary to hypotension.  Will reassess after
   fluid resuscitation this PM.  If continues to deteriorate will get
   further workup.  Given the patient has concominant anemia, will use
   PRBCs for resuscitation.  Will continue to renally dose medications.
   Will check vanc and tacrolimus level.
   .
   # s/p fall: no evidence of fracture. Pain controlled currently.
   - cont lidocaine patch, tylenol
   - avoid narcotics given tenuous respiratory status
   - PT
   .
   # DM: Even though patient is NPO BG have been very elevated.  Will
   continue to monitor QID and adjust sliding scale accordingly.  Will use
   half dose of outpatient insulin while NPO
   .
   # ILD: unclear etiology. Followed by Pulm. Refractory to steroids.
   - continue supplemental O2
   - no steroids for now
   - alb/atrovent nebs
   .
   # PTLD: no known active issues currently.
   - check LFTs as above
   - continue Tacrolimus at regular dose for now
   .
   # Hypothyroidism: TSH normal this admission. Continue Levothyroxine
   .
   # Access: PICC, PIV
   .
   # FEN: NPO for now given tenuous respiratory status
   .
   # Prophylaxis: Heparin SC 5000 tid, PPI
   -          Bactrim M/W/F
 DYSPHAGIA
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-12-22**] 01:50 AM
   Prophylaxis:
   DVT:  heparin sc tid
   Stress ulcer:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2125-12-24 09:21:00 Physician Attending Progress Note
Chief Complaint: rapid Afib, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - 1 liter fluid challenege, off Neo, still in Afib with RVR at times
   - struggling with issues around code status as noted by Dr [**Last Name (STitle) **] in
   prior entries
   Allergies:
   Codeine
   Unknown;
   Oxycodone/Acetaminophen (Oral) (Oxycodone Hcl/Acetaminophen
   Unknown;
   Morphine Sulfate
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2125-12-22**] 03:00 AM
   Vancomycin - [**2125-12-22**] 09:00 PM
   Piperacillin - [**2125-12-24**] 08:07 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-12-24**] 08:00 AM
   Other medications:
   Bactrim prophy
   Tacro
   Vit D
   Ca
   Synthroid
   PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-12-24**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.8
C (96.5
   HR: 138 (80 - 144) bpm
   BP: 104/53(65) {81/47(56) - 109/79(84)} mmHg
   RR: 30 (19 - 39) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 94.1 kg (admission): 90.5 kg
   Height: 66 Inch
             Total In:
                                                                  2,670 mL
                                                                    592 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                  2,670 mL
                                                                    352 mL
   Blood products:
   Total out:
                                                                    460 mL
                                                                    229 mL
   Urine:
                                                                    460 mL
                                                                    229 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,210 mL
                                                                    363 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 306 (249 - 473) mL
   PS : 12 cmH2O
   RR (Spontaneous): 42
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 11.3 L/min
   Physical Examination
   Gen obese female, sitting up in bed, mild resp distress, fatigies
   appearing
   HEENT: o/p dry
   CV: irreg orreg
   Chest: diffuse inspiratory rales
   Abd obese soft Nt + BS
   Ext 2+ edema
   Neuro A and oriented conversant
   Labs / Radiology
   8.5 g/dL
   286 K/uL
   107 mg/dL
   2.3 mg/dL
   32 mEq/L
   4.0 mEq/L
   26 mg/dL
   92 mEq/L
   134 mEq/L
   24.0 %
   10.2 K/uL
        [image002.jpg]
                            [**2125-12-22**]  02:50 AM
                            [**2125-12-22**]  03:20 AM
                            [**2125-12-22**]  12:24 PM
                            [**2125-12-22**]  03:48 PM
                            [**2125-12-23**]  04:50 AM
                            [**2125-12-23**]  07:21 AM
                            [**2125-12-24**]  12:34 AM
                            [**2125-12-24**]  06:01 AM
   WBC
   18.4
   18.4
   16.9
   10.2
   Hct
   26.9
   27.0
   25.3
   24.0
   Plt
   393
   429
   380
   286
   Cr
   1.4
   1.6
   1.8
   2.2
   2.3
   TCO2
   39
   38
   34
   Glucose
   132
   110
   379
   115
   107
   Other labs: PT / PTT / INR:14.1/29.3/1.2, ALT / AST:[**11-10**], Alk Phos / T
   Bili:96/0.4, Differential-Neuts:85.4 %, Lymph:11.4 %, Mono:2.2 %,
   Eos:0.8 %, Lactic Acid:0.9 mmol/L, LDH:183 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.5 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 DYSPHAGIA
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   1.       Resp Distress: likely due to underlying ILD with superimposed
   atrial fibrillation and some mild vol overload. .  Respiratory status
   remains tenuous and she is essentially dependent on BiPAP with periods
   she is able to come off.
   2.       Hemodynamics: AF has recurred and we have restarted
   amiodarone.  Continue pressor to maintain MAP 65. Will continue
   Vanco/Zosyn and hold cipro awaiting cultures.
   3.       ARF: Critical to check all med levels esp. tacrolimus for s/p
   liver transplant and Vanco.
   4.       Continue discussions with family, primary care physician and
   consultants for overall plan of care. Unable to advance diet.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   ICU Care
   Nutrition: NPO while on bipap
   Glycemic Control:
   Lines:
   PICC Line - [**2125-12-22**] 01:50 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2125-12-25 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt had desaturation down to low 90's while on face [** **] during the
   day.  ABG showed relative hypoxia.  Restarted on CPAP and O2 sat came
   up to 96%.  During the episode the patient was in a fib with a rate in
   the 110's.
   - Pt weaned off phenylephrine
   - Patient and subsequent separate Family Meeting with Dr. [**Last Name (STitle) **]
   (Patients outpatient pulmonologist) at 1500 today (need to let Dr. [**Last Name (STitle) **]
   know)
   Allergies:
   Codeine
   Unknown;
   Oxycodone/Acetaminophen (Oral) (Oxycodone Hcl/Acetaminophen
   Unknown;
   Morphine Sulfate
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-12-22**] 09:00 PM
   Piperacillin - [**2125-12-25**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-12-25**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-12-25**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 118 (73 - 144) bpm
   BP: 93/46(59) {86/34(26) - 117/84(89)} mmHg
   RR: 30 (18 - 37) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 94.1 kg (admission): 90.5 kg
   Height: 66 Inch
             Total In:
                                                                  1,139 mL
                                                                    267 mL
   PO:
                                                                    640 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    499 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                    579 mL
                                                                    163 mL
   Urine:
                                                                    579 mL
                                                                    163 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    560 mL
                                                                    104 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 375 (375 - 375) mL
   RR (Set): 0
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: 7.24/75/75/29/1
   Ve: 6.5 L/min
   PaO2 / FiO2: 150
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   266 K/uL
   8.3 g/dL
   64 mg/dL
   2.4 mg/dL
   29 mEq/L
   4.0 mEq/L
   28 mg/dL
   92 mEq/L
   133 mEq/L
   24.0 %
   8.3 K/uL
        [image002.jpg]
                            [**2125-12-22**]  02:50 AM
                            [**2125-12-22**]  03:20 AM
                            [**2125-12-22**]  12:24 PM
                            [**2125-12-22**]  03:48 PM
                            [**2125-12-23**]  04:50 AM
                            [**2125-12-23**]  07:21 AM
                            [**2125-12-24**]  12:34 AM
                            [**2125-12-24**]  06:01 AM
                            [**2125-12-24**]  09:58 PM
                            [**2125-12-25**]  05:30 AM
   WBC
   18.4
   18.4
   16.9
   10.2
   8.3
   Hct
   26.9
   27.0
   25.3
   24.0
   24.0
   Plt
   393
   429
   380
   286
   266
   Cr
   1.4
   1.6
   1.8
   2.2
   2.3
   2.4
   TCO2
   39
   38
   34
   34
   Glucose
   132
   110
   379
   115
   107
   64
   Other labs: PT / PTT / INR:14.1/29.3/1.2, ALT / AST:[**11-10**], Alk Phos / T
   Bili:96/0.4, Differential-Neuts:85.4 %, Lymph:11.4 %, Mono:2.2 %,
   Eos:0.8 %, Lactic Acid:0.9 mmol/L, LDH:183 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.5 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   73 yo female with PMH significant for ILD on home O2, diastolic CHF,
   cor pulmonale, s/p liver transplant on immunosuppression,
   post-transplant myeloproliferative disorder s/p CHOP and rituximab
   transferred to ICU for respiratory distress.
   .
   # respiratory distress: hypercarbic and hypoxic respiratory failure.
   Most likely worsening natural course of her ILD with worsening
   pulmonary edema secondary to a fib with RVR, improved with rate
   control.  Patient tenuous at baseline. Treating for VAP in addition to
   underlying lung disease, on vanco/zosyn day #[**8-5**].  Will renally dose
   zosyn at 2.25mg starting today.
   - NIPPV, alternate CPAP with face [**Last Name (LF) **], [**First Name3 (LF) **] need to increase time on
   CPAP
   - will monitor respiratory status closely, if any change will consider
   intubation, overall plan to be discussed with patient and family today
   with her primary pulmonologist Dr. [**Last Name (STitle) **]
   - treat SVT as below
   - continue nebulizer treatments
   - No indication for steroids. Has not been responsive to steroids in
   the past
   .
   # SVT: appears to be AF vs MAT on tele and ECG.  The patient was loaded
   with amiodarone drip, started on amiodarone 200mg QD yesterday.  Will
   continue to rate control with lopressor as tolerated by BP.
   Spontaneously converts into NSR
   - will continue to monitor on telemetry
   .
   # hypotension: resolved, likely was due to RVR, and diastolic heart
   failure
   -          responded to rate control and IV fluids, will repeat today
   as needed.
   -          Will restart pressors as needed
   .
   #. ARF: likely prerenal secondary to hypotension.  Will reassess after
   fluid resuscitation this PM.  If continues to deteriorate will get
   further workup.  Given the patient has concominant anemia, will use
   PRBCs for resuscitation.  Will continue to renally dose medications.
   Will check vanc and tacrolimus level.
   .
   # s/p fall: no evidence of fracture. Pain controlled currently.
   - cont lidocaine patch, tylenol
   - avoid narcotics given tenuous respiratory status
   - PT
   .
   # DM: Even though patient is NPO BG have been very elevated.  Will
   continue to monitor QID and adjust sliding scale accordingly.  Will use
   half dose of outpatient insulin while NPO
   .
   # ILD: unclear etiology. Followed by Pulm. Refractory to steroids.  See
   above for plan.
   .
   # PTLD: no known active issues currently.  Will check tacrolimus trough
   today given ARF.  Will dose following level.
   .
   # Hypothyroidism: TSH normal this admission. Continue Levothyroxine
   .
   # Access: PICC, PIV
   .
   # FEN: NPO for now given tenuous respiratory status
   .
   # Prophylaxis: Heparin SC 5000 tid, PPI
   -          Bactrim M/W/F
 DYSPHAGIA
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-12-22**] 01:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2125-12-25 10:30:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Was on face mask for hours yesterday but desaturated required BIPAP
   again overnight.
   Worsening resp distress.
   7.24/75/75 on venti mask this AM
   Allergies:
   Codeine
   Unknown;
   Oxycodone/Acetaminophen (Oral) (Oxycodone Hcl/Acetaminophen
   Unknown;
   Morphine Sulfate
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-12-22**] 09:00 PM
   Piperacillin - [**2125-12-25**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2125-12-25**] 08:33 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-12-25**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2125-12-25**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.6
   HR: 86 (73 - 123) bpm
   BP: 123/58(71) {86/34(38) - 123/84(89)} mmHg
   RR: 27 (18 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.6 kg (admission): 90.5 kg
   Height: 66 Inch
             Total In:
                                                                  1,139 mL
                                                                    644 mL
   PO:
                                                                    640 mL
                                                                    340 mL
   TF:
   IVF:
                                                                    499 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                    579 mL
                                                                    223 mL
   Urine:
                                                                    579 mL
                                                                    223 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    560 mL
                                                                    421 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 375 (375 - 375) mL
   RR (Set): 0
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: 7.24/75/75/29/1
   Ve: 6.5 L/min
   PaO2 / FiO2: 150
   Physical Examination
   Gen obese female, lying in bed, resp distress, somnelent
   HEENT: o/p dry
   CV: irreg irreg
   Chest: diffuse inspiratory rales
   Abd obese soft Nt + BS
   Ext 2+ edema
   Neuro : somnolent but arousable
   Labs / Radiology
   8.3 g/dL
   266 K/uL
   64 mg/dL
   2.4 mg/dL
   29 mEq/L
   4.0 mEq/L
   28 mg/dL
   92 mEq/L
   133 mEq/L
   24.0 %
   8.3 K/uL
        [image002.jpg]
                            [**2125-12-22**]  02:50 AM
                            [**2125-12-22**]  03:20 AM
                            [**2125-12-22**]  12:24 PM
                            [**2125-12-22**]  03:48 PM
                            [**2125-12-23**]  04:50 AM
                            [**2125-12-23**]  07:21 AM
                            [**2125-12-24**]  12:34 AM
                            [**2125-12-24**]  06:01 AM
                            [**2125-12-24**]  09:58 PM
                            [**2125-12-25**]  05:30 AM
   WBC
   18.4
   18.4
   16.9
   10.2
   8.3
   Hct
   26.9
   27.0
   25.3
   24.0
   24.0
   Plt
   393
   429
   380
   286
   266
   Cr
   1.4
   1.6
   1.8
   2.2
   2.3
   2.4
   TCO2
   39
   38
   34
   34
   Glucose
   132
   110
   379
   115
   107
   64
   Other labs: PT / PTT / INR:14.1/29.3/1.2, ALT / AST:[**11-10**], Alk Phos / T
   Bili:96/0.4, Differential-Neuts:85.4 %, Lymph:11.4 %, Mono:2.2 %,
   Eos:0.8 %, Lactic Acid:0.9 mmol/L, LDH:183 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.5 mg/dL, PO4:5.2 mg/dL
   Vanco 22.6
   CXR with significant acute pulm edema on top of underlying ILD
   Assessment and Plan
 DYSPHAGIA
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   1.       Respiratory Failure: Significantly worse this AM likely due to
   volume overload and progressive CO2 retention. Will try NIPPV again
   this AM but heading toward reintubation. Will call family and try to
   move up family meeting
   2.       ARF: ATN in setting of hypotension and repeated episodes of AF
   with RVR. Art this point we are forced to give Lasix to try to help her
   resp status
   3.       Afib
 on Amio
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2125-12-22**] 01:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:   family meeting ASAP
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill